US06248740B1
Production of ethyl 2-[6-[3-[4-[bis(4-methylphenyl)methoxy]piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate
2.11 g of 4-[bis(4-methylphenyl)methoxy]-1-piperidinepropanamine and 0.803 g of ethyl 2-[6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate were stirred at 190-200° C. for 3 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with sodium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (95:5:1). The desired fraction was collected, dissolved in 20 ml of ethyl acetate; a solution of 358 mg of fumaric acid in 20 ml of methanol was added, followed by concentration. Acetone was added to the residue; the crystal precipitated was collected by filtration, washed with acetone and dried to yield 0.901 g of the title compound.

reactant | 4-[bis(4-methylphenyl)methoxy]-1-piperidinepropanamine | 2.11 g | CC1=CC=C(C=C1)C(OC1CCN(CC1)CCCN)C1=CC=C(C=C1)C | C23H32N2O
reactant | ethyl 2-[6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 0.803 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 2-[6-[3-[4-[bis(4-methylphenyl)methoxy]piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate | 0.901 g | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.CC1=CC=C(C=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=C(C=C2)C | InChI=1S/C35H45N5O3.2C4H4O4/c1-6-42-34(41)35(4,5)30-24-40-32(37-30)17-16-31(38-40)36-20-7-21-39-22-18-29(19-23-39)43-33(27-12-8-25(2)9-13-27)28-14-10-26(3)11-15-28;2*5-3(6)1-2-4(7)8/h8-17,24,29,33H,6-7,18-23H2,1-5H3,(H,36,38);2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
